US05455258
To a solution of 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-[carbomethoxy]piperidine (1.0 g, 2.39 mmol) in dimethylformamide (160 mL) is added sodium hydride (287.0 mg, 7.18 mmol, 60% in oil) at 0° C., followed by benzyl bromide (450.0 mg, 2.63 mmol). The reaction mixture is slowly warmed to room temperature and stirred overnight. The mixture is quenched with water and extracted with ethyl acetate. The combined organic layers are washed with brine, dried (Na2SO4) and the solvent is evaporated to give 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-4-[carbomethoxy]-piperidine.

reactant | 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-[carbomethoxy]piperidine | 2.39 mmol, 1.0 g | COC1=CC=C(C=C1)S(=O)(=O)N(C1(CCNCC1)C(=O)OC)CC1=CC=CC=C1 | C21H26N2O5S
reactant | sodium hydride | 7.18 mmol, 287.0 mg | [H-].[Na+]
reactant | benzyl bromide | 2.63 mmol, 450.0 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
product | 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-4-[carbomethoxy]-piperidine | COC1=CC=C(C=C1)S(=O)(=O)N(C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC)CC1=CC=CC=C1 | C28H32N2O5S
